US07122545B2
A mixture of 0.10 g 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-oxo-cyclohexyl)-amide and 0.34 g ammonium triflouroacetate was melted at 165° C. for 50 minutes and, after cooling to room temperature, suspended in water. Extraction with dichloromethane and chromatography on silicagel with ethylacetate/hexane 6:4 gave 0.04 g (39%) 4-methoxy-7-morpholin-4-yl-2-(4,5,6,7-tetrahydro-1H-benzoimidazol-2-yl)-benzothiazole as light brown solid; MS (ISP): m/e=371 (M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-oxo-cyclohexyl)-amide | 0.10 g | O=C1C(CCCC1)NC(=O)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C19H23N3O4S
reactant | ammonium triflouroacetate | 0.34 g | FC(C(=O)[O-])(F)F.[NH4+]
solvent | water | O | H2O
product | 4-methoxy-7-morpholin-4-yl-2-(4,5,6,7-tetrahydro-1H-benzoimidazol-2-yl)-benzothiazole | 0.04 g, 39% | COC1=CC=C(C2=C1N=C(S2)C2=NC1=C(N2)CCCC1)N1CCOCC1 | C19H22N4O2S
